US05856273
Step 1 Preparation of 2-mercapto-N-(3-methylphenyl)acetamide
Freshly distilled meta-toluidine (10.168 g) was dissolved in toluene (50 ml) and treated with thioglycollic acid (7 ml). The mixture was heated under reflux, and water collected in a Dean and Stark apparatus overnight. The reaction mixture was then cooled and poured into hexane (50 ml). The product separated as an oil and the solvents were removed under reduced pressure to give a white solid (17.975 g). Attempts at recrystallisation resulted in failure and the residue was chromatographed on silica gel. The product (14.84 g), still contaminated with meta toluidine, was taken up in ethyl acetate and washed with 2M hydrochloric acid. The title compound was then isolated in the usual manner as a white solid, yield 13.13 g, mp 58°-60° C.

reactant | meta-toluidine | 10.168 g | NC1=CC(=CC=C1)C | C7H9N
reactant | thioglycollic acid | 7 ml | C(C(=O)O)S | C2H4O2S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-mercapto-N-(3-methylphenyl)acetamide | 17.975 g | SCC(=O)NC1=CC(=CC=C1)C | C9H11NOS
